US06673800B2
Preparation of 1-[4-(3-Phenyl-4,5-dihydroisoxazol-5-yl)butyl]-4-(2-methylphenyl)piperazine
4-(3-Phenyl-4,5-dihydroisoxazol-5-yl)butanal (27.1 mg, 0.124 mmol), 1-(o-tolyl) piperazine (20.0 mg, 0.113 mmol), molecular sieve (5 beads) and NaBH(OAc)3 (72.1 mg, 0.340 mmol) were reacted in 3 mL of methylene chloride for about 12 hr. With the following processes the same as in Example 1, 26.5 mg (67.3%) of the target compound was obtained.

reactant | 4-(3-Phenyl-4,5-dihydroisoxazol-5-yl)butanal | 0.124 mmol, 27.1 mg | C1(=CC=CC=C1)C1=NOC(C1)CCCC=O | C13H15NO2
reactant | 1-(o-tolyl) piperazine | 0.113 mmol, 20.0 mg | C1(=C(C=CC=C1)N1CCNCC1)C | C11H16N2
reactant | NaBH(OAc)3 | 0.340 mmol, 72.1 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | methylene chloride | 3 mL | C(Cl)Cl | CH2Cl2
product | 1-[4-(3-Phenyl-4,5-dihydroisoxazol-5-yl)butyl]-4-(2-methylphenyl)piperazine | 26.5 mg, 67.3% | C1(=CC=CC=C1)C1=NOC(C1)CCCCN1CCN(CC1)C1=C(C=CC=C1)C | C24H31N3O
